US04397864
To 16.9 g of chlorobenzene was added 1.5 g of ferric chloride, and hydrogen chloride gas was blown into the mixture for minutes. Then, 46 g of tert-butyl chloride was added dropwise to the mixture at 30° C. over a period of 1 hour. The mixture was maintained at 30° C. for 2 hours. The reaction mixture was washed with an aqueous solution of sodium carbonate and then with water, and evaporated under reduced pressure to give 25 g of 4-tertbutylchlorobenzene (bp.: 113° C./28 mmHg).

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl chloride | 46 g | C(C)(C)(C)Cl | C4H9Cl
reactant | chlorobenzene | 16.9 g | ClC1=CC=CC=C1 | C6H5Cl
product | 4-tertbutylchlorobenzene | 25 g | C(C)(C)(C)C1=CC=C(C=C1)Cl | C10H13Cl
